US07282501B2
Step E: 2-(2-tert-Butoxycarbonyl-ethyl)-5-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzoic acid 2-trimethylsilanyl-ethyl ester
To a solution of 2-(2-tert-butoxycarbonyl-ethyl)-5-hydroxy-benzoic acid 2-trimethylsilanyl-ethyl ester (4.30 g, 11.7 mmol) and toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester (4.61 g, 12.9 mmol) in DMF (30 mL) was added Cs2CO3 (4.59 g, 14.1 mmol). The suspension was stirred at 55° C. for 12 h. The reaction mixture was quenched with H2O (200 mL) and extracted with EtOAc (3×100 mL). The combined organics were dried (Na2SO4) and concentrated to a residue, which was purified using silica gel chromatography (hexanes/EtOAc 9/1 to 8/2) to afford the title compound as a colorless oil (5.04 g, 78%). 1H NMR (400 MHz, CDCl3): δ 0.06 (s, 9H), 1.11 (t, 2H, J=8.8 Hz), 1.40 (s, 9H), 2.36 (s, 3H), 2.51 (t, 1H, J=7.8 Hz), 2.97 (t, 2H, J=6.8 Hz), 3.12 (t, 1H, J=7.8 Hz), 4.24 (t, 2H, J=6.8 Hz), 4.35 (t, 2H, J=8.8 Hz), 6.88 (dd, 1H, J=3.0, 8.3 Hz), 7.15 (d, 1H, J=8.3 Hz), 7.37-7.44 (m, 4H), 7.97 (d, 2H, J=7.8 Hz).

reactant | 2-(2-tert-butoxycarbonyl-ethyl)-5-hydroxy-benzoic acid 2-trimethylsilanyl-ethyl ester | 11.7 mmol, 4.30 g | C[Si](CCOC(C1=C(C=CC(=C1)O)CCC(=O)OC(C)(C)C)=O)(C)C | C19H30O5Si
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | 12.9 mmol, 4.61 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | Cs2CO3 | 14.1 mmol, 4.59 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(2-tert-Butoxycarbonyl-ethyl)-5-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzoic acid 2-trimethylsilanyl-ethyl ester | 5.04 g, 78% | C[Si](CCOC(C1=C(C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCC(=O)OC(C)(C)C)=O)(C)C | C31H41NO6Si
